reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[C:4](=[O:5])([H:8])[H:12].[O:1]=[C:2]([C:3]([C:6]#[C:7][H:13])([H:10])[H:11])[H:9],95.0717201308572
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C:6](=[O:7])([H:8])[H:13].[O:1]=[C:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])[H:9],66.8455216785294
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5]1=[N:6][C:4]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],96.90975551785179
[C:1]([N:2](/[C:3](=[N:4]/[C:5](=[O:6])[H:12])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],39.90668379932263
[C:1]1([H:9])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[N:5]([H:15])[C@:6]1([O:7][H:8])[H:16]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],68.2541797573016
[C:1]([C:2]([O:3][C:5](=[O:6])[H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.710424986308986
[N-:1]([C+:6]1[C:2]([H:9])=[O+:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[N-:7]1)[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],56.64073389399621
[C:1]([N:2]([C:3](=[O:4])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],77.8916069869677
[C-:1]([O+:2]=[C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])[H:12])([H:8])[H:10].[H:9][H:11]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],1.3753556809909924
[C:1]([C:2][C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9],8.854545813473806
[C:1]1([H:9])=[C:6]([H:14])[C@:7]2([H:15])[C@@:2]1([H:10])[C@@:3]2([O:4][C:5]([H:8])([H:12])[H:13])[H:11]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15],93.27314248331339
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14].[C:6](=[O:7])([H:12])[H:15],94.99311369590271
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5]#[N:6])([H:9])[H:10])\[H:7],46.107465788502104
[O:1]=[C:2]1[C:3]([H:7])([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10]>>[O-:1][C:2]1=[C:6]=[O+:5][C:4]([H:9])([H:10])[C:3]1([H:7])[H:8],64.69696773914039
[C:1]([O:2][C@@:6]1([H:16])[N:5]([H:15])[C:4]([H:13])([H:14])[C:3]([H:11])([H:12])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],76.97911355956181
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13],112.81844107085399
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:12])[H:8].[O:5]=[C:6]([O:7][H:11])[H:13],59.0364493679754
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[N+:7]#[C-:6])([H:8])([H:9])[H:10],54.4212305184795
[N:1]([C@:2]1([O:3]/[C:6](=[N:7]/[H:13])[H:12])[C:4]([H:10])([H:11])[O:5]1)([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],21.613068729286496
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@@:2]([C:5](=[O:6])[H:12])([H:10])[C@@:3]1([O:4][H:8])[H:11],89.0803394106085
[O:1]([C:2]([C:4](=[C:3])[H:8])([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5],10.3837367752242
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([c:3]1[n:4]([H:8])[n:5]([H:12])[c+:6]([H:13])[c:7]1[H:14])[H:11])([H:9])[H:10],94.25446354489692
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3][O:4][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],60.345080181522896
[C:1]([C@:2]1([O:3][H:17])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],34.23909498677659
